US07375115B2
2-[2-[1-[2-(tert-Butyldiphenylsiloxy)ethyl]cyclohexyl]ethyl]-2-hydroxymethylbutane-1,4-diol
To a solution of diethyl 2-[2-[1-[2-(tert-Butlydiphenylsiloxy)ethyl]cyclohexyl]ethyl]-2-hydroxymethylbutane-1,4-diol ethoxycarbonylsuccinate (1.0 g) in diethyl ether (20 mL) was added lithium aluminum hydride (178 mg) under ice cooling. After stirring the solution under ice cooling for 1.5 hours, water (0.18 mL) and a 15% aqueous sodium hydroxide solution (0.18 mL) were successively added thereto. The solution was stirred at room temperature for 15 minutes. Water (0.54 mL) was then added to the solution, and it was stirred at room temperature for additional 30 minutes. The solution was dried over anhydrous magnesium sulfate and filtered. Chloroform was added to the solid, and the solution was stirred at room temperature for 2 hours, followed by filtration. The combined filtrate was concentrated under reduced pressure. The resulting residue was purified by chromatography (silica gel, hexane:ethyl acetate=1:4) to give the title compound (230 mg)

reactant | diethyl 2-[2-[1-[2-(tert-Butlydiphenylsiloxy)ethyl]cyclohexyl]ethyl]-2-hydroxymethylbutane-1,4-diol ethoxycarbonylsuccinate | 1.0 g | C(C)OC(=O)C(C(=O)O)CC(=O)O.C(C)C(C(CCO)(CO)CCC1(CCCCC1)CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)(O)CC
reactant | lithium aluminum hydride | 178 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.18 mL | O | H2O
reactant | sodium hydroxide | 0.18 mL | [OH-].[Na+]
reactant | Water | 0.54 mL | O | H2O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | 2-[2-[1-[2-(tert-Butyldiphenylsiloxy)ethyl]cyclohexyl]ethyl]-2-hydroxymethylbutane-1,4-diol | 230 mg | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CCC1(CCCCC1)CCC(CO)(CCO)CO | C31H48O4Si
